US06787551B2
4-Anilinyl-6-chloropyridine
The title compound (3.8 g) was prepared by the same procedure as the preparation 4 except for using 2-chloro-4-nitropyridine (3.2 g) and aniline (5.7 g).

reactant | 2-chloro-4-nitropyridine | 3.2 g | ClC1=NC=CC(=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | aniline | 5.7 g | NC1=CC=CC=C1 | C6H7N
product | 4-Anilinyl-6-chloropyridine | 3.8 g | N(C1=CC=CC=C1)C1=CC=NC(=C1)Cl | C11H9ClN2
